US08227461B2
a) 6-(3-Butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid
To a suspension of 6-(3-butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (1.0 g, 3.3 mmol) in THF (6 mL) was added a solution of lithium hydroxide monohydrate (248 mg, 9.8 mmol) in water (6 mL) added and the resulting mixture stirred at room temperture for 5 h. The mixture was acidified to pH 4 with HCl (1 N, 4.5 mL) and the resulting mixture extracted with ethyl acetate. The combined organic layers were then washed with water and brine, dried over sodium sulfate and evaporated. Purification by chromatography (silica, heptane:ethyl acetate=1:0 to 0:1) afforded the title compound (654 mg, 76%) which was obtained as a white solid. MS: m/e=291.2 [M+H]+.

reactant | 6-(3-butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 3.3 mmol, 1.0 g | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)CCCC)=O | C16H20N2O4
reactant | lithium hydroxide monohydrate | 9.8 mmol, 248 mg | O.[OH-].[Li+]
reactant | HCl | 1 N, 4.5 mL | Cl | ClH
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | water | 6 mL | O | H2O
product | 6-(3-Butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid | 654 mg, 76% | C(CCC)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)C | C15H18N2O4
